US07781454B2
Step 2: 2-(3-Bromo-5-chlorophenoxy)-3-chloro-6-fluorobenzaldehyde
To a solution of 3-bromo-5-chlorophenyl 2-chloro-5-fluorophenyl ether (100 g, 298 mmol) in THF (300 mL) cooled to −78° C. over a dry ice/acetone bath was added 1.8M lithium diisopropylamide in hexanes/THF/ethylbenzene (174 mL, 313 mmol) over 10 min. The resulting mixture was stirred for 20 minutes and then treated with DMF (46.1 mL, 595 mmol). The DMF-treated mixture was then removed from the cooling bath and allowed to warm to room temperature and then left at room temperature for 1 hour. The reaction mixture was then quenched with water (1000 mL) and extracted with EtOAc (3×500 mL). The combined extracts were washed with water (500 mL), dried over MgSO4, and concentrated in vacuo. This residue was purified on a silica gel column (0-40% CH2Cl2/hexanes) to give the title product. LRMS (M−18+1)=346.7

reactant | 3-bromo-5-chlorophenyl 2-chloro-5-fluorophenyl ether | 298 mmol, 100 g | ClC1=C(C=C(C=C1)F)OC1=CC(=CC(=C1)Cl)Br | C12H6BrCl2FO
reactant | lithium diisopropylamide | 1.8M | C(C)(C)[N-]C(C)C.[Li+]
reactant | DMF | 595 mmol, 46.1 mL | CN(C)C=O | C3H7NO
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-(3-Bromo-5-chlorophenoxy)-3-chloro-6-fluorobenzaldehyde | BrC=1C=C(OC2=C(C=O)C(=CC=C2Cl)F)C=C(C1)Cl | C13H6BrCl2FO2
